US06313127B1
A mixture of 4-[3-(4-cyanophenoxy)-1-pyrrolidinyl]pyridine (269 mg) and powdered potassium hydroxide (568 mg) in t-butanol (10 ml), under an atmosphere of argon, was heated under reflux for 18 hours. The mixture was filtered hot. The filtercake was washed with water and ethanol to give 4-[3-(4-carbamoylphenoxy)-1-pyrrolidinyl]pyridine (166 mg) as a colourless solid, mp 298-300° C.

reactant | 4-[3-(4-cyanophenoxy)-1-pyrrolidinyl]pyridine | 269 mg | C(#N)C1=CC=C(OC2CN(CC2)C2=CC=NC=C2)C=C1 | C16H15N3O
reactant | potassium hydroxide | 568 mg | [OH-].[K+]
solvent | t-butanol | 10 ml | C(C)(C)(C)O | C4H10O
product | 4-[3-(4-carbamoylphenoxy)-1-pyrrolidinyl]pyridine | 166 mg | C(N)(=O)C1=CC=C(OC2CN(CC2)C2=CC=NC=C2)C=C1 | C16H17N3O2
